2184-10-16 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2184-10-15**] 02:29 PM
   pt's existing trach changed from Portex #7 to Perc Portex #7 under
   bronchoscopy.  sutured in to place after procedure.  NAR noted.
 PAN CULTURE - At [**2184-10-15**] 09:05 PM
 FEVER - 101.1
F - [**2184-10-15**] 08:00 PM
   - pan cultured last evening
   - lots of secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-10-14**] 09:23 PM
   Metronidazole - [**2184-10-16**] 12:11 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2184-10-15**] 02:15 PM
   Fentanyl - [**2184-10-15**] 02:15 PM
   Heparin Sodium (Prophylaxis) - [**2184-10-16**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-16**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.3
C (99.2
   HR: 88 (75 - 113) bpm
   BP: 127/45(66) {101/42(45) - 161/72(92)} mmHg
   RR: 34 (24 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,966 mL
                                                                    566 mL
   PO:
             TF:
   IVF:
                                                                  1,906 mL
                                                                    566 mL
   Blood products:
   Total out:
                                                                  2,006 mL
                                                                    660 mL
   Urine:
                                                                  1,965 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -40 mL
                                                                    -94 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General: NAD, lying in bed
   HEENT: tongue slightly protruding and very dry, firm mass right jaw and
   superior
   NECK: radiation changes anterior/right neck. Tracheostomy. Gurgling
   sounds with breathing.
   HEART: Regular rhythm, tachycardic without murmurs.
   LUNGS: Diffuse rhonchorous sounds anterior and posterior chest
   ABD: Soft, nondistended, PEG-tube site is clean dry and intact.
   SKIN: Warm and dry without rashes.
   EXTREMITIES: Warm, no edema.
   Psych: Alert and oriented with normal affect.
   Labs / Radiology
   652 K/uL
   7.2 g/dL
   113 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.7 mEq/L
   10 mg/dL
   91 mEq/L
   130 mEq/L
   22.4 %
   26.7 K/uL
        [image002.jpg]
                            [**2184-10-14**]  01:52 AM
                            [**2184-10-15**]  01:55 AM
                            [**2184-10-15**]  03:34 PM
                            [**2184-10-16**]  03:45 AM
   WBC
   21.2
   20.7
   26.7
   Hct
   23.3
   22.0
   21.7
   22.4
   Plt
   [**Telephone/Fax (3) 10797**]
   Cr
   0.7
   0.7
   0.7
   Glucose
   162
   113
   113
   Other labs: PT / PTT / INR:14.5/36.3/1.3, Differential-Neuts:94.1 %,
   Lymph:2.3 %, Mono:2.5 %, Eos:1.0 %, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   68yo M squamous cell throat cancer w recent hx of pneumonia and ICU
   stay, s/p Trach/PEG, presented w tracheostomy tube in false lumen.
   # Respiratory Distress:
   Patient appears stable currently though had mild episode of
   desaturating in the evening and increase in FiO2, though pt does not
   complain of shortness of breath.
   - CXR to look at chest tube placement and pneumothorax
   - home nebulizers
   - complete course of vancomycin for previous MRSA pneumonia w today as
   last day
   - f/u w sputum cultures
 [**10-15**] sputum shows staph aureus
   - likely colonizes various bugs in sputum; hard to tell if infected by
   new staph infection
   .
   # Leukocytosis:
   Elevated from when he was last discharged from hospital, but currently
   stable. In the setting of a new fever on presentation to the Medical
   ICU, he may have a new infection. Culture from [**10-14**] reads out Staph
   Aureus, which could mean that previous Vanc dosing had not been
   sufficient or that he had developed resistance or that he has another
   source of infection.  Pt has been on empiric C diff tx w metronidazole
   from Rehab center.  LLL infiltrate persists on CXR-- likely from
   pneumonia on previous admission.
   - re-cultured today w new fever
   - f/u blood cultures and sputum culture speciation and specificities
   from [**10-14**]
   - finish Vancomycin course, last dose today (for MRSA pneumonia from
   last hospitalization)
   - send C diff specimen if pt has diarrhea
   - continue metronidazole for now, pending C diff from [**Hospital1 189**] and
   here
call [**Hospital1 189**] about their C diff pending test results
   .
   # Tracheostomy Tube placement/Pneumothorax:
   Likely represents trauma from a trach change and suctioning as his
   rehabilitation facility.
   - monitor PTX w CXR
   - talk to surgeons about who pulls chest tube
   .
   # Anemia
   - guaiac stools
   - trend Hcts and transfuse for Hct <21
   .
   # Stage III Squamous Cell Throat CA:
   Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**] at [**Hospital1 19**]. s/p XRT and cetuximab, last
   dose [**2184-6-21**].  Surgery deferred.
   - G-tube in place
   - restart on tube feeds
   .
   # Chronic systolic heart failure:
   Stable
   - continue on home lasix and beta blocker
   .
   # Hypertension:
   - continue on home meds of lisinopril, beta blocker
   .
   # H/O CVA:
   Per notes, he has had a history of 'small strokes'.
   - ASA 325mg daily
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2184-10-14**] 12:06 AM
   20 Gauge - [**2184-10-14**] 08:00 AM
   Prophylaxis:
   DVT: subq heprain
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: wife, [**Name (NI) 1332**]
   [**Name (NI) 36**] status: Full Code
   Disposition:

2184-10-16 10:50:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: dislodgement of trach
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68yo M with oropharyngeal SCC s/p chemo/xrt who was recently admitted
   to this ICU with pneumonia, s/p trach and discharged to rehab on
   remainder of abx course for MRSA pneumonia, now re-admitted with
   bleeding from trach and false lumen.  Course complicated by recurrent
   migration of trach into false lumen and pneumothorax.
   24 Hour Events:
   Febrile overnight and pan-cultured.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-10-14**] 09:23 PM
   Metronidazole - [**2184-10-16**] 08:40 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2184-10-15**] 02:15 PM
   Fentanyl - [**2184-10-15**] 02:15 PM
   Heparin Sodium (Prophylaxis) - [**2184-10-16**] 08:40 AM
   Other medications:
   Changes to medical and family history:  None
   Review of systems is unchanged from admission except as noted below
   Review of systems:  No change, patient has no complaint of pain or
   shortness of breath.
   Flowsheet Data as of  [**2184-10-16**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.6
C (99.6
   HR: 81 (75 - 113) bpm
   BP: 122/53(69) {101/42(45) - 161/72(92)} mmHg
   RR: 25 (24 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,966 mL
                                                                    925 mL
   PO:
             TF:
   IVF:
                                                                  1,906 mL
                                                                    825 mL
   Blood products:
   Total out:
                                                                  2,006 mL
                                                                    960 mL
   Urine:
                                                                  1,965 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -40 mL
                                                                    -35 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   Gen
l: awake, alert, pleasant, mouthing words, appears older than
   stated age
   HEENT: trach in place with secretions but no bleeding
   Pulm: diffuse rhonchi and RLL squeaks, no wheezing
   CV: regular, soft SM but no gallops or rubs
   Abdomen: soft, non-tender, non-distended, (+) bowel sounds
   Ext: no edema
   Neurologic: awake, alert
   Labs / Radiology
   7.2 g/dL
   652 K/uL
   113 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.7 mEq/L
   10 mg/dL
   91 mEq/L
   130 mEq/L
   22.4 %
   26.7 K/uL
        [image002.jpg]
                            [**2184-10-14**]  01:52 AM
                            [**2184-10-15**]  01:55 AM
                            [**2184-10-15**]  03:34 PM
                            [**2184-10-16**]  03:45 AM
   WBC
   21.2
   20.7
   26.7
   Hct
   23.3
   22.0
   21.7
   22.4
   Plt
   [**Telephone/Fax (3) 10797**]
   Cr
   0.7
   0.7
   0.7
   Glucose
   162
   113
   113
   Other labs: PT / PTT / INR:14.5/36.3/1.3, Differential-Neuts:94.1 %,
   Lymph:2.3 %, Mono:2.5 %, Eos:1.0 %, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   >> Fever/Leukocytosis
   - pan cultured overnight, awaiting results
   - vancomycin due to end today and will discontinue
   - will call for c.diff result from [**Hospital1 189**] and check sample here, if
   (+) will add PO vancomycin
   - culture for recurrent fevers
   >> Difficult airway: false lumen and multiple trach replacements
   - new trach placed by IP yesterday with longer limb
   - ongoing significant secretions
   - will likely continue to have intermittent mucus plugging given poor
   airway clearance
   >> Pneumothorax
   - no evident reaccumulation of pneumothorax
   - plan for CT removal today and repeat CXR tomorrow morning
   >> Hyponatremia
   - likely poor solute intake and diuretic
   - will start TF, follow
   >> Anemia: will tranfuse 1u PRBC today
   - guaiac stool but no apparent source of bleeding
   >> SCC:
   - followed by oncology here and will notify them that he is back
   >> Hypertension: on home regimen
   ICU Care
   Nutrition:
   Comments: will restart TF today
   Glycemic Control:
   Lines:
   PICC Line - [**2184-10-14**] 12:06 AM
   20 Gauge - [**2184-10-14**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   Communication:  updated wife at bedside
   Code status: Full code
   Disposition :ICU for management of secretions and resp distress
   Total time spent: 31 minutes

2184-10-17 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -chest tube; trauma surgery will take out tomorrow.
   - [**Hospital1 **]: never sent c.diff. other cultures did not grow anything.
   -last dose of vanc last night
   - ? CT chest if continuing to spike; f/u on cultures
   - Pt. s/p 1 unti PRBC
   - monitor HTN...may need to split up regimen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-10-16**] 11:44 AM
   Metronidazole - [**2184-10-16**] 04:12 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-10-17**] 12:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-17**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.5
C (99.5
   HR: 80 (75 - 92) bpm
   BP: 151/68(87) {114/48(64) - 156/70(88)} mmHg
   RR: 21 (19 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                  2,544 mL
                                                                    126 mL
   PO:
                  TF:
                                                                     16 mL
                                                                     66 mL
   IVF:
                                                                  2,019 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,060 mL
                                                                  1,020 mL
   Urine:
                                                                  2,060 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    484 mL
                                                                   -894 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   General: NAD, lying in bed
   HEENT: tongue slightly protruding and very dry, firm mass right jaw and
   superior
   NECK: radiation changes anterior/right neck. Tracheostomy. Gurgling
   sounds with breathing.
   HEART: Regular rhythm, tachycardic without murmurs.
   LUNGS: Diffuse rhonchorous sounds anterior and posterior chest
   ABD: Soft, nondistended, PEG-tube site is clean dry and intact.
   SKIN: Warm and dry without rashes.
   EXTREMITIES: Warm, no edema.
   Psych: Alert and oriented with normal affect.
   Labs / Radiology
   618 K/uL
   8.7 g/dL
   113 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.2 mEq/L
   10 mg/dL
   90 mEq/L
   129 mEq/L
   26.2 %
   23.2 K/uL
        [image002.jpg]
                            [**2184-10-14**]  01:52 AM
                            [**2184-10-15**]  01:55 AM
                            [**2184-10-15**]  03:34 PM
                            [**2184-10-16**]  03:45 AM
                            [**2184-10-17**]  04:04 AM
   WBC
   21.2
   20.7
   26.7
   23.2
   Hct
   23.3
   22.0
   21.7
   22.4
   26.2
   Plt
   [**Telephone/Fax (3) 10815**]18
   Cr
   0.7
   0.7
   0.7
   0.6
   Glucose
   162
   113
   113
   113
   Assessment and Plan
   68yo M squamous cell throat cancer w recent hx of pneumonia and ICU
   stay, s/p Trach/PEG, presented w tracheostomy tube in false lumen.
   # Respiratory Distress: if leukocytosis persists may benefit from a
   chest CT for further characterization of his LLL opacity, he may also
   benefit from a bronch to clear out all of his secretions
   Patient appears stable with trach replaced, longer trach in place to
   bypass false lumen, ENT following
   - Pneumothorax resolved on CXR, trauma surgery to pull chest tube today
   - continue home nebulizers
   - completed course of vancomycin for previous MRSA pneumonia
   - f/u w sputum cultures
 [**10-15**] sputum shows staph aureus
   - likely colonized difficult to discern infection vs. colonization,
   more likely colonization if no changes on CXR or in sputum production,
   will f/u final cx results
   .
   # Leukocytosis:
   Elevated from when he was last discharged from hospital, now trending
   down. In the setting of a new fever on presentation to the Medical ICU,
   he may have a new infection. Sputum culture from [**10-14**] is growing Staph
   Aureus along with other oropharyngeal flora, which could mean that
   previous Vanc dosing had not been sufficient or that he had developed
   resistance, is colonized or that he has another source of infection.
   Pt has been on empiric C diff tx w metronidazole from Rehab center, but
   no C.diff results as  yet.  LLL infiltrate persists on CXR-- likely
   from pneumonia on previous admission.
   - If patient remains febrile with a persistent leukocytosis then would
   get a chest CT for better LLL characterization, also he continues to
   have some LLL collapse on CXR, that has improved but not resolved, may
   benefit from a clean out bronch, to help clear of all his secretions,
   and to help reinflate his LLL, if this is a post-obstructive PNA then
   will not clear well unless the obstruction is removed
   - f/u new cx data, so far all blood cx
s with NGTD, urine culture
   negative, [**2-3**] sputum cx
s c/w oropharyngeal flora
   - f/u sputum culture speciation and sensitivites from [**10-14**]
   - Vancomycin course finished for MRSA pneumonia from last
   hospitalization
   - send C diff when pt has BM
   - continue metronidazole for now, pending results
   - Cx
s from [**Hospital1 189**] with NGTD
   .
   # Hyponatremia: patient has been on lasix 20mg po BID since admission,
   with lower tube feed rates, hyponatremia likely due to hypovolemic
   hyponatremia as patient appears dehydrated on exam
   - hold lasix for now, and look at old records to determine why he was
   started on lasix, was not on at the time of discharge
   - advance tube feeds
   .
   # Tracheostomy Tube placement/Pneumothorax:
   Likely represents trauma from a trach change and suctioning as his
   rehabilitation facility.
   - trauma to pull chest tube today
   .
   # Anemia: pt. s/p 1 unit PRBC
s with appropriate bump in HCT
   .
   # Stage III Squamous Cell Throat CA:
   Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**] at [**Hospital1 19**]. s/p XRT and cetuximab, last
   dose [**2184-6-21**].  Surgery deferred.
   - G-tube in place, escalating tube feeds to goal
   .
   # Chronic systolic heart failure: Stable
   - continue on home beta blocker and ACEi
   .
   # Hypertension:
   - continue on home meds of lisinopril, beta blocker.  Will change
   dosing to put beta blocker at night and ACEi in the morning
   .
   # H/O CVA:
   Per notes, he has had a history of 'small strokes'.
   - ASA 325mg daily
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2184-10-16**] 10:26 PM 10 mL/hour
advance by
   10ml/hr to goal of 40ml/hr
   Glycemic Control:
   Lines:
   PICC Line - [**2184-10-14**] 12:06 AM
   20 Gauge - [**2184-10-14**] 08:00 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: lansoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: ICU pending further work up of leukocytosis and suctioning
   needs

2184-10-17 10:38:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: difficult airway
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68yo M with h/o oropharyngeal cancer recently admitted with pneumonia
   and now s/p tracheostomy, recently s/p 21 day vancomycin course for
   MRSA pneumonia, who is now admitted with migration of trach into false
   lumen.  Now s/p new trach placement by IP, also with fever and
   leukocytosis.
   24 Hour Events:
   Received 1u PRBC with appropriate increase in blood count.  Low grade
   temp overnight.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-10-16**] 11:44 AM
   Metronidazole - [**2184-10-16**] 04:12 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-10-17**] 07:47 AM
   Other medications:
   Changes to medical and family history:  No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:  No changes
   Flowsheet Data as of  [**2184-10-17**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 77 (75 - 92) bpm
   BP: 136/61(79) {114/49(65) - 156/70(88)} mmHg
   RR: 30 (19 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,544 mL
                                                                    903 mL
   PO:
             TF:
                                                                     16 mL
                                                                    146 mL
   IVF:
                                                                  2,019 mL
                                                                    587 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,060 mL
                                                                  1,070 mL
   Urine:
                                                                  2,060 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    484 mL
                                                                   -167 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   Gen
l: awake, alert, pleasant, comfortable appearing
   HEENT: prominent soft tissue mass R>L in neck, anicteric, mmm
   Neck: trach in place, no oozing at site
   CV: distant, no murmurs/rubs/gallops
   Pulmonary: diffusely rhonchorous with transmitted upper airway sounds,
   no wheezing appreciated
   Abdomen: soft, non-tender, non-distended, (+) bowel sounds, g-tube site
   non-tender
   Extermities: no edema
   Labs / Radiology
   8.7 g/dL
   618 K/uL
   113 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.2 mEq/L
   10 mg/dL
   90 mEq/L
   129 mEq/L
   26.2 %
   23.2 K/uL
        [image002.jpg]
                            [**2184-10-14**]  01:52 AM
                            [**2184-10-15**]  01:55 AM
                            [**2184-10-15**]  03:34 PM
                            [**2184-10-16**]  03:45 AM
                            [**2184-10-17**]  04:04 AM
   WBC
   21.2
   20.7
   26.7
   23.2
   Hct
   23.3
   22.0
   21.7
   22.4
   26.2
   Plt
   [**Telephone/Fax (3) 10815**]18
   Cr
   0.7
   0.7
   0.7
   0.6
   Glucose
   162
   113
   113
   113
   Other labs: PT / PTT / INR:14.5/36.3/1.3, Differential-Neuts:94.1 %,
   Lymph:2.3 %, Mono:2.5 %, Eos:1.0 %, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
 Fever, Leukocytosis
   - work up negative to date, awaiting sample for c.diff
   - on empiric flagyl but will discontinue of c.diff negative
   - off vancomycin, unlikely to be drug fever
   - secretions overall improved, S. aureus in sputum may be contaminant
   - could consider CT chest bronch with attempt to suction LLL and ensure
   no post-obstructive pneumonia
   - PICC was placed here 10.08, if can get peripheral access then will
   pull today
 Hyponatremia
   - previously thought to be due to HCTZ, hypovolemia and poor po intake
   - currently hypovolemic and poor solute intake
   - will hold lasix and advance tube feeds as tolerated
   - recheck lytes this afternoon
 Difficult Airway
   - tracheostomy with long limb placed on 10.16
   - per ENT, okay to restart aspirin today
 Pneumothorax
   - resolved on CXR with CT to water seal
   - surgery plans to pull CT today
 Anemia
   - likely anemia of chronic disease, crit bumped appropriately
   - no evidence of active bleeding
Hypertension
   - will adjust timing of BP meds and if needed increase lisinopril
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2184-10-16**] 10:26 PM 20 mL/hour
   Comments: will d/w nutrition about bolus tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2184-10-14**] 12:06 AM
   18 Gauge - [**2184-10-17**] 08:13 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2184-10-18 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2184-10-17**] 08:00 PM
   - chest tube removed by surgery, repeat CXR showed continued resolution
   of PTX
   - unclear source of leukocytosis/fever
   - sputum cx growing MRSA, ? infx vs. colonization
   - still with low grade temps,
   - PICC pulled, tip cultured in the setting of fever
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-10-16**] 11:44 AM
   Metronidazole - [**2184-10-16**] 04:12 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-10-18**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-18**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.8
   HR: 77 (74 - 82) bpm
   BP: 119/48(65) {117/47(65) - 154/64(87)} mmHg
   RR: 24 (20 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                  2,057 mL
                                                                    331 mL
   PO:
                  TF:
                                                                    638 mL
                                                                    271 mL
   IVF:
                                                                  1,129 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                    320 mL
   Urine:
                                                                  1,670 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    387 mL
                                                                     11 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General: NAD, lying in bed
   HEENT: tongue slightly protruding and very dry, firm mass right jaw and
   superior
   NECK: radiation changes anterior/right neck. Tracheostomy. Gurgling
   sounds with breathing.
   HEART: Regular rhythm, tachycardic without murmurs.
   LUNGS: Diffuse rhonchorous sounds anterior and posterior chest
   ABD: Soft, nondistended, PEG-tube site is clean dry and intact.
   SKIN: Warm and dry without rashes.
   EXTREMITIES: Warm, no edema.
   Psych: Alert and oriented with normal affect.
   Labs / Radiology
   605 K/uL
   9.0 g/dL
   142 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   13 mg/dL
   95 mEq/L
   130 mEq/L
   27.2 %
   22.8 K/uL
        [image002.jpg]
                            [**2184-10-14**]  01:52 AM
                            [**2184-10-15**]  01:55 AM
                            [**2184-10-15**]  03:34 PM
                            [**2184-10-16**]  03:45 AM
                            [**2184-10-17**]  04:04 AM
                            [**2184-10-17**]  05:00 PM
                            [**2184-10-18**]  04:04 AM
   WBC
   21.2
   20.7
   26.7
   23.2
   22.8
   Hct
   23.3
   22.0
   21.7
   22.4
   26.2
   27.2
   Plt
   [**Telephone/Fax (3) 10815**]18
   605
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   0.6
   Glucose
   162
   113
   113
   113
   130
   142
   Other labs: PT / PTT / INR:16.1/37.1/1.4, Differential-Neuts:94.1 %,
   Lymph:2.3 %, Mono:2.5 %, Eos:1.0 %, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   68yo M squamous cell throat cancer w recent hx of pneumonia and ICU
   stay, s/p Trach/PEG, presented w tracheostomy tube in false lumen.
   # Respiratory Distress:
   if leukocytosis persists may benefit from a chest CT for further
   characterization of his LLL opacity, he may also benefit from a bronch
   to clear out all of his secretions. Patient appears stable with trach
   replaced, longer trach in place to bypass false lumen, ENT following.
   Pneumothorax resolved on CXR
 Chest tube was pulled [**10-17**].  Completed
   course of Vancomycin for previous MRSA pneumonia.  Sputum growing MRSA
   pneumonia this admission as well, but may just be a colonization
   because also growing other bacteria.  Patient has significant lower
   airway secretions which may be contributing to mucus plugging as well.
   - continue home nebulizers
   - frequent suctioning
   - consider CT vs Bronch
   .
   # Leukocytosis:
   Elevated from when he was last discharged from hospital, now trending
   down. In the setting of a new fever on presentation to the Medical ICU,
   he may have a new infection. Sputum culture from [**10-14**] is growing MRSA
   along with other oropharyngeal flora
likely that MRSA is no colonized.
   Pt has been on empiric C diff tx w metronidazole from Rehab center, but
   C.diff results Negative so far.  LLL infiltrate persists on CXR--
   likely residual from pneumonia on previous admission.
   - If patient remains febrile with a persistent leukocytosis then would
   get a chest CT for better LLL characterization, also he continues to
   have some LLL collapse on CXR, that has improved but not resolved, may
   benefit from a clean out bronch, to help clear of all his secretions,
   and to help reinflate his LLL, if this is a post-obstructive PNA then
   will not clear well unless the obstruction is removed
   - f/u new cx data, so far all blood cx
s with NGTD, urine culture
   negative, [**2-3**] sputum cx
s c/w oropharyngeal flora
   - f/u sputum culture speciation and sensitivites from [**10-14**]
   - continue metronidazole for now
   - Cx
s from [**Hospital1 189**] with NGTD
   .
   # Hyponatremia: patient has been on lasix 20mg po BID since admission,
   with lower tube feed rates, hyponatremia likely due to hypovolemic
   hyponatremia as patient appears dehydrated on exam
   - hold lasix for now, and look at old records to determine why he was
   started on lasix, was not on at the time of discharge
   - advance tube feeds
   .
   # Anemia: pt. s/p 1 unit PRBC
s with appropriate bump in HCT
   .
   # Stage III Squamous Cell Throat CA:
   Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**] at [**Hospital1 19**]. s/p XRT and cetuximab, last
   dose [**2184-6-21**].  Surgery deferred.
   - G-tube in place, escalating tube feeds to goal
   .
   # Chronic systolic heart failure: Stable
   - continue on home beta blocker and ACEi
   .
   # Hypertension:
   - continue on home meds of lisinopril, beta blocker.  Will change
   dosing to put beta blocker at night and ACEi in the morning
   .
   # H/O CVA:
   Per notes, he has had a history of 'small strokes'.
   - ASA 325mg daily
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2184-10-16**] 10:26 PM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-10-17**] 08:13 AM
   20 Gauge - [**2184-10-17**] 08:00 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: ICU, pending workup of fevers/leukocytosis, frequent
   suctioning needs